US04055663
11-Aminoundecanoic acid (10.7 grams; 0.05 mole) was added to 125 ml of ethyl acetate and refluxed with 5 ml of chloroacetyl chloride as above. After one hour no precipitate was noted and the excess chloroacetyl chloride and ethyl acetate was removed by vacuum distillation. 14 Grams (96% yield) of N-chloroacetylamino-11-undecanoic acid was obtained. This compound was confirmed by elemental analysis and infrared spectroscopy.

reactant | 11-Aminoundecanoic acid | 0.05 mole, 10.7 grams | NCCCCCCCCCCC(=O)O | C11H23NO2
reactant | chloroacetyl chloride | 5 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | ethyl acetate | 125 ml | C(C)(=O)OCC | C4H8O2
product | N-chloroacetylamino-11-undecanoic acid | 96% yield | ClCC(=O)NCCCCCCCCCCC(=O)O | C13H24ClNO3
